US09193716B2
To a stirred solution of 3-bromo-4-propoxybenzaldehyde (0.6 g, 2.47 mmol) in anhydrous DMF (5 ml) CuCN (0.67 g; 7.4 mmol) was added and the mixture was stirred for 4 h at reflux. After cooling to room temperature, the mixture was treated with EtOAc (50 ml) and 1M HCl (10 ml) and stirred for 15 min. The organic layer was separated, dried over MgSO4 and filtered. The filtrate was evaporated to dryness to give 5-formyl-2-propoxybenzonitrile (0.41 g; 88%), as yellow oil 1H NMR (CDCl3) 9.87 (s, 1H); 8.07 (d, 1H, J=1.95 Hz); 8.03 (dd, 1H, J=8.67, 2.1 Hz); 7.06 (d, 1H, J=8.7 Hz); 4.13 (t, 2H, J=6.45 Hz); 1.97-1.85 (m, 2H); 1.1 (t, 3H, J=7.35 Hz). The above benzaldehyde was oxidised via a similar procedure as described in Example 47 Step A, to give the title compound (0.29 g; 68%), as white solid. 1H NMR (CDCl3) 8.3 (d, 1H, J=1.71 Hz); 8.23 (dd, 1H, J=8.88, 2.1 Hz); 7.00 (d, 1H, J=7.62 Hz); 4.12 (t, 2H, J=6.48 Hz); 1.97-1.85 (m, 2H); 1.09 (t, 3H, J=7.38 Hz).

reactant | 3-bromo-4-propoxybenzaldehyde | 2.47 mmol, 0.6 g | BrC=1C=C(C=O)C=CC1OCCC | C10H11BrO2
reactant | DMF | 7.4 mmol, 5 ml, 0.67 g | CN(C)C=O | C3H7NO
reactant | HCl | 1M, 10 ml | Cl | ClH
solvent | EtOAc | 50 ml | CCOC(=O)C | C4H8O2
product | 5-formyl-2-propoxybenzonitrile | 0.41 g, 88% | C(=O)C=1C=CC(=C(C#N)C1)OCCC | C11H11NO2
